US05436247
A solution of 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-3-ethoxycarbonylquinoline-2-acetic acid ethyl ester (5.8 g) in tetrahydrofuran (100 ml) was added drop by drop at 0° C. to a suspension of lithium aluminum hydride (0.455 g) in tetrahydrofuran (50 ml). After the reaction mixture was stirred at 0° C. for 1 hour, water (2.5 ml) was added drop by drop, followed by stirring for 30 more minutes. After the insoluble solid was filtered off, the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with chloroform-ethyl acetate (1:1, v/v) to yield 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-(2-hydroxyethyl)quinoline-3-carboxylic acid ethyl ester (1.75 g, 33%), which was then recrystallized from ethyl acetate-hexane to yield a colorless prismatic crystal having a melting point of 150° to 151° C.

reactant | 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-3-ethoxycarbonylquinoline-2-acetic acid ethyl ester | 5.8 g | C(C)OC(CC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC)=O | C26H29NO8
reactant | lithium aluminum hydride | 0.455 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2.5 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-(2-hydroxyethyl)quinoline-3-carboxylic acid ethyl ester | 1.75 g, 33% | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CCO | C24H27NO7
